US07291616B2
Alternatively, to a mixture of magnesium (1.46 g, 60.0 mmol) and tetrahydrofuran (100 ml) was added a small crystal of iodine followed by 4-chloro-2-iodo-toluene (12.62 g, 50 mmol). The mixture was heated under gentle reflux in an argon atmosphere for 6 hours and then cooled to −78° C. A solution of cyanuric chloride (7.84 g, 42.5 mmol) in tetrahydrofuran (45 ml) was added over 25 minutes. After stirring at −78° C. for 1 hour, the mixture was slowly warmed to room temperature and stirred for 16 hours. The reaction mixture, cooled in an ice bath, was quenched by slow addition of hydrochloric acid (1 M, 15 ml). The mixture was diluted with water (150 ml) and extracted with dichloromethane (3×125 ml). The combined extracts was washed with water (150 ml), dried over sodium sulfate, and concentrated under reduced pressure. The residue was purified by flash chromatography on silica gel eluting with ethyl acetate-hexane (7:93) to provide 2,4-dichloro-6-(5-chloro-2-methyl-phenyl)-[1,3,5]triazine (10.2 g, 87% yield) as a white powder.

reactant | magnesium | 60.0 mmol, 1.46 g | [Mg] | Mg
reactant | iodine | II | I2
reactant | 4-chloro-2-iodo-toluene | 50 mmol, 12.62 g | ClC1=CC(=C(C=C1)C)I | C7H6ClI
reactant | cyanuric chloride | 42.5 mmol, 7.84 g | N1=C(Cl)N=C(Cl)N=C1Cl | C3Cl3N3
solvent | tetrahydrofuran | 45 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 2,4-dichloro-6-(5-chloro-2-methyl-phenyl)-[1,3,5]triazine | 10.2 g, 87% yield | ClC1=NC(=NC(=N1)Cl)C1=C(C=CC(=C1)Cl)C | C10H6Cl3N3
